US06262103B1
Step 1: 1-Cyano-3-cyclobutyl-6,6-dimethyl-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one
In the same way as described in Example 6, Step 1, using cyclobutylmagnesium bromide and 1-cyano-6,6-dimethyl-3-methylthio-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one, the title compound (0.37 g, 18%) was isolated as a pale yellow solid. mp 65-68° C. 1HNMR (360 MHz, CDCl3) δ 1.06 (6H, s), 1.90-1.98 (1H, m), 2.00-2.12 (3H, m), 2.40 (2H, s), 2.50-2.62 (2H, m), 2.83 (2H, s), 4.45-4.56 (1H, m).

reactant | cyclobutylmagnesium bromide | C1(CCC1)[Mg]Br
reactant | 1-cyano-6,6-dimethyl-3-methylthio-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | C(#N)C=1SC(=C2C1CC(CC2=O)(C)C)SC | C12H13NOS2
product | 1-Cyano-3-cyclobutyl-6,6-dimethyl-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 0.37 g, 18% | C(#N)C=1SC(=C2C1CC(CC2=O)(C)C)C2CCC2 | C15H17NOS
